US04166131
2-isopropyl-α-methyl-5-indanacetic acid [process variant (a)]
A solution of 26.6 g of potassium hydroxide in 50 cc of water is added to a solution of 41.5 g of crude α-hydroxy-2-isopropyl-α-methyl-5-indanacetic acid methyl ester in 500 cc of methanol, and the mixture is boiled at reflux for 11/2 hours. The solution is concentrated, diluted with water and extracted with ether in order to remove the neutral components. The aqueous phase is then acidified with hydrochloric acid, extracted with ether, the ether extract is washed with water, dried over sodium sulphate and concentrated by evaporation. The resulting α-hydroxy-2-isopropyl-α-methyl-5-indanacetic acid is recrystallized from ether/hexane and has a M.P. of 126°-130°.

reactant | potassium hydroxide | 26.6 g | [OH-].[K+]
reactant | α-hydroxy-2-isopropyl-α-methyl-5-indanacetic acid methyl ester | 41.5 g | COC(C(C=1C=C2CC(CC2=CC1)C(C)C)(C)O)=O | C16H22O3
solvent | water | 50 cc | O | H2O
solvent | methanol | 500 cc | CO | CH4O
product | 2-isopropyl-α-methyl-5-indanacetic acid | C(C)(C)C1CC2=CC=C(C=C2C1)C(C(=O)O)C | C15H20O2
